US04349564
10 g (0.07 mol) of 1-methyl-cyclobutane-1,2-dicarboxylic acid anhydride are dissolved in 50 ml of toluene, and 11.6 g (0.07 mol) of 3,5-dichloroaniline are added. After 24 hours' stirring at room temperature, the amide acid (m.p. 106°-108° C.) which has precipitated is separated. This amidocarboxylic acid is suspended in 40 ml of acetic anhydride, and the suspension is stirred for 24 hours at room temperature, in the course of which everything goes into solution. The acetic anhydride is evaporated off in a water-jet vacuum, and the pulverulent residue is recrystallised from dichloromethane/n-hexane to yield 15 g (73% of theory) of 1-methyl-cyclobutane-1,2-dicarboxylic acid-(3,5-dichlorophenyl)-imide, m.p. 110°-111° C. NMR Spectrum (100 MHz) δ in ppm: 1.55 (s, 3H, CH3), 2.0-3.2 (m, 5H, --CH2CH2 --CH--), 7.2-7.5 (m, 3H, aromat.). Compound No. 7.

reactant | 1-methyl-cyclobutane-1,2-dicarboxylic acid anhydride | 0.07 mol, 10 g | CC12C(CC1)C(=O)OC2=O | C7H8O3
reactant | 3,5-dichloroaniline | 0.07 mol, 11.6 g | ClC=1C=C(N)C=C(C1)Cl | C6H5Cl2N
solvent | toluene | 50 ml | C1(=CC=CC=C1)C | C7H8
product | 1-methyl-cyclobutane-1,2-dicarboxylic acid-(3,5-dichlorophenyl)-imide | 15 g, 73% | ClC=1C=C(C=C(C1)Cl)N=C(O)C1(C(CC1)C(=O)O)C | C13H13Cl2NO3
